US04677129
(a) 1-(4-aminophenyl)-5-phenyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 12a, 1.8 g of 1-(4-nitrophenyl)-5-phenyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione are dissolved in 40 ml of ethyl acetate, hydrogenated in the presence of 0.2 g of 5% palladium-on-carbon and worked up. Melting point 144°-145° (from n-hexane/ether).

reactant | 1-(4-nitrophenyl)-5-phenyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | 1.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(N(C(C(C1)(C2)C2=CC=CC=C2)=O)CCC)=O | C21H20N2O4
reactant | n-hexane ether | CCCCCC.CCOCC
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.2 g | [Pd] | Pd
product | 1-(4-aminophenyl)-5-phenyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)(C2)C2=CC=CC=C2)=O)CCC)=O | C21H22N2O2
